US06472386B1
Synthesis of Ethyl 5-(3,4,5-Trimethoxyphenyl)pyrazole-3-carboxylate
Ethyl 4-hydroxy-2-oxo-3,4,5-trimethoxyphenyl-3-butenoate (5.0 g) and hydrazine monohydrate (0.8 mL) were treated in the same manner as in Preparation Example 26 to obtain the title compound.

reactant | Ethyl 4-hydroxy-2-oxo-3,4,5-trimethoxyphenyl-3-butenoate | 5.0 g | OC1(C(C(C(C=C1OC)C(C(=O)OCC)C=C)=O)OC)OC | C15H22O7
reactant | hydrazine monohydrate | 0.8 mL | O.NN
product | Ethyl 5-(3,4,5-Trimethoxyphenyl)pyrazole-3-carboxylate | COC=1C=C(C=C(C1OC)OC)C1=CC(=NN1)C(=O)OCC | C15H18N2O5
